### PR TITLE
Linear to linear non-linear

### PR DESCRIPTION
**Pull request by Kfwullaert**
Every linear category is part of a linear non-linear model.
The associated cartesian (monoidal) category is the eilenberg-moore category. 
This construction has been formalized in this PR.
Some laws in the definition of a linear category were missing, these are now added. 
Consequently, a construction in LiftingModel has now become incomplete (@nmvdw ).

### CODE REVIEW

**Comment by m-lindgren** [comment]
Will the `Admitted` material be added to this PR?

File: UniMath/Semantics/LinearLogic/LinearCategory.v [hunk 1]
```diff
@@ -152,7 +153,39 @@ Definition linear_category_laws
       linear_category_comult 𝕃 x
       · sym_mon_braiding 𝕃 _ _
       =
-      linear_category_comult 𝕃 x).
+        linear_category_comult 𝕃 x)
+     ×
+     (* counit preserves tensor *)
```
Comment (rmatthes) [inline UniMath/Semantics/LinearLogic/LinearCategory.v:158]: I am sorry for this shallow observation, but most of the time, the comultiplication is dealt with before the counit. Also the tensor comes before the unit in the def. of monoidal cats. (And, generally, the unitor rules came before the associator rules as a warm-up in the proofs.)
So, here, the order should be:
- comult preserves tensor
- comult preserves unit
- counit preserves tensor
- counit preserves unit

However, the laws 5 and 6 of a linear category do not follow this pattern.

Comment (nmvdw) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:158]: Agreed (with the request to fix this after merging https://github.com/Kfwullaert/UniMath/pull/37).

File: UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v [hunk 2]
```diff
@@ -0,0 +1,123 @@
...
+          apply id_left).
+    - abstract (
+          intro x;
+          cbn;
+          rewrite id_left;
+          exact (Comonad_law3 (T := linear_category_bang L) x)).
+  Defined.
+
+  Local Definition eilenberg_moore_forget
+    : full_subcat (dialgebra (functor_identity L) (linear_category_bang L))
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v:64]: Can you use an identifier here? Why do you go via the full subcat here?

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 3]
```diff
@@ -0,0 +1,811 @@
...
+Require Import UniMath.Semantics.LinearLogic.LinearNonLinear.
+
+Import MonoidalNotations.
+
+Local Open Scope cat.
+Local Open Scope moncat.
+
+Import ComonoidNotations.
+
+Section ConstructionOfComonoidsInLinearCategory.
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:48]: This statement is not specific to linear categories, right? It might be good to change `L : linear_category` to `V : sym_monoidal_cat` (and possibly move it to another file).

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 4]
```diff
@@ -0,0 +1,811 @@
...
+    - apply id_right.
+  Qed.
+
+End ConstructionOfComonoidsInLinearCategory.
+
+Section LiftingPropertyCoalgebraMorSection.
+
+  Lemma postcomp_with_section_reflect_coalg_mor
+    (L : linear_category)
+    (xx aa bb : @sym_monoidal_cat_co_eilenberg_moore _ _ _ (linear_category_bang L))
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:277]: Why do you need the `@` here?

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 5]
```diff
@@ -0,0 +1,811 @@
...
+    (i : _⟦aa,bb⟧)
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:278]:
```suggestion
    (i : aa --> bb)
```

Comment (nmvdw) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:278]: There is no reason to use the `⟦` notation if you don't specify the category.

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 6]
```diff
@@ -0,0 +1,811 @@
...
+      apply maponpaths.
+      refine (_ @ functor_id (linear_category_bang L) _).
+      apply maponpaths.
+      exact ir_id.
+  Qed.
+
+  Definition lifting_is_coalg_mor
+    {L : linear_category}
+    {xx aa bb : (@sym_monoidal_cat_co_eilenberg_moore _ _ _ (linear_category_bang L))}
+    {g : _⟦xx,bb⟧} {i : _⟦aa,bb⟧} {f : L⟦pr11 xx, pr11 aa⟧}
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:314]:
```suggestion
    {g : xx --> bb} {i : aa --> bb} {f : L⟦pr11 xx, pr11 aa⟧}
```

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 7]
```diff
@@ -0,0 +1,811 @@
...
+    }
+    rewrite assoc'.
+    rewrite <- tensor_comp_mor.
+    refine (_ @ id_right _).
+    apply maponpaths.
+    rewrite <- tensor_id_id.
+    use two_arg_paths ; apply Comonad_law1.
+  Qed.
+
+  Local Lemma yank (* any suggestions for the name are welcome *)
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:366]: What about `transport_comonoid_from_free_lem`?

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 8]
```diff
@@ -0,0 +1,811 @@
...
+
+  Let bang : sym_monoidal_cmd L
+      := linear_category_bang L.
+
+  Context (xx : EM).
+  Let x : L := pr11 xx.
+  Let hx : L⟦x, bang x⟧ := pr21 xx.
+
+  Lemma comonoid_in_eilenberg_moore_from_coalg_counit_alg_mor
+    :  hx · #bang ε_{(x,, transport_comonoid_from_free L xx) : comonoid L}
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:503]: It might be good to make an identifier for `transport_comonoid_from_free` where the resulting type is a comonoid

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 9]
```diff
@@ -0,0 +1,811 @@
...
+End ConstructionOfComonoidsInEilenbergMoore.
+
+Section EilenbergMooreCartesian.
+
+  Context (L : linear_category).
+
+  (* naturality of the comultiplication and counit *)
+  Lemma comonoid_mor_in_eilenberg_moore
+    {x y : (@sym_monoidal_cat_co_eilenberg_moore _ _ _ (linear_category_bang L))}
+    (f : _⟦x, y⟧)
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:618]:
```suggestion
    (f : x --> y)
```

**Review by nmvdw — APPROVED** [review]

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v (hunk 4 above)
Comment (Kfwullaert) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:277]: sym_monoidal_cat_co_eilenberg_moore only has implicit arguments

Comment (nmvdw) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:277]: It might be better to make one of its arguments explicit.

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v (hunk 3 above)
Comment (Kfwullaert) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:48]: You are absolutely right, thanks for noticing this!

File: UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v (hunk 2 above)
Comment (Kfwullaert) [reply UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v:64]: If I would have used "co_eilenberg_moore_cat (linear_category_bang L) ⟶ L. ",
Coq would not recognize this as a total category, i.e., I could not just use pr1_category.

**Comment by rmatthes** [comment]
Commit https://github.com/UniMath/UniMath/pull/1768/commits/f7a562a984c43c2897bd46039429d4ea6f56b91f seems to run indefinitely.

**Comment by Kfwullaert** [comment]
> Commit [f7a562a](https://github.com/UniMath/UniMath/commit/f7a562a984c43c2897bd46039429d4ea6f56b91f) seems to run indefinitely.

My machine hangs when trying to compile UniMath/Semantics/LinearLogic/LiftingModel.v
The admits that I first added, and solved by @nmvdw , a cbn is used, for me, it hangs there.

**Comment by nmvdw** [comment]
The cause was that the order of the laws was changed, but not my code. A fix is in https://github.com/Kfwullaert/UniMath/pull/38

File: UniMath/Semantics/LinearLogic/LinearCategory.v (hunk 1 above)
Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearCategory.v]: The order of the laws 5 and 6 should also be inverted (with propagation).

File: UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v [hunk 10]
```diff
@@ -0,0 +1,123 @@
+(*
+In this file, the cofree adjunction between a linear category and its eilenberg-moore category is constructed.
```
Comment (rmatthes) [inline UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v:2]:
```suggestion
In this file, the cofree adjunction between a linear category and its Eilenberg-Moore category is constructed.
```

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v (hunk 4 above)
Comment (nmvdw) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:53]: Now the arguments are explicit, you can remove the `@` (multiple occurrences in this file)

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 11]
```diff
@@ -0,0 +1,591 @@
...
+      · linear_category_comult L (pr11 x ⊗ pr11 y)
+      · ε (linear_category_bang L) (pr11 x ⊗ pr11 y) #⊗ ε (linear_category_bang L) (pr11 x ⊗ pr11 y)
+    = rightwhiskering_on_morphisms (pr1 L) (pr11 y) _ _
+        (pr21 x · linear_category_comult L (pr11 x) · ε (linear_category_bang L) (pr11 x) #⊗ ε (linear_category_bang L) (pr11 x))
+        · leftwhiskering_on_morphisms (pr1 L) (pr11 x ⊗ pr11 x) _ _
+        (pr21 y · linear_category_comult L (pr11 y)
+           · ε (linear_category_bang L) (pr11 y) #⊗ ε (linear_category_bang L) (pr11 y))
+  · pr11 (inner_swap (sym_monoidal_cat_co_eilenberg_moore (linear_category_bang L)) x x y y).
+  Proof.
+    Opaque SymmetricDiagonal.inner_swap. (* I do not include the file SymmetricDiagonal because this is the only place I use it *)
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:477]: I don't think it is a problem to include a file even if you use it in only 1 place.

**Review by nmvdw — APPROVED** [review]

**Comment by rmatthes** [comment]
Now that the development has been done, it would be nice to use the blackboard L as identifier for a linear category, as is done in the later part of `LinearCategory.v`. Emacs tells me to type \BbbL to enter that letter.

I think it would be worth it since the letter L has such a strong association with left adjoints.

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 12]
```diff
@@ -0,0 +1,591 @@
+(*
+In this file, we show how any linear category induces a linear non linear model.
```
Comment (rmatthes) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:2]:
```suggestion
In this file, we show how any linear category induces a linear/non-linear model.
```

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 13]
```diff
@@ -0,0 +1,591 @@
...
+This boils down to proving how the eilenberg moore category of the (symmetric monoidal) comonad, given by a linear category, is cartesian monoidal.
```
Comment (rmatthes) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:3]:
```suggestion
This boils down to proving that the Eilenberg-Moore category of the (symmetric monoidal) comonad, given by a linear category, is cartesian monoidal.
```
Or is it really a question of choosing the binary products?

Comment (Kfwullaert) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:3]: @rmatthes No, you do not choose it because the (tensor) product is shown to be cartesian. Thus, your suggestion is indeed a valid observation.

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v (hunk 12 above)
Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:2]: @nmvdw What is your take on the name? You often wrote "linear-non-linear". Benton had an "and" between "linear and "non-linear" also in the title of his paper you mention there.

**Comment by Kfwullaert** [comment]
> Now that the development has been done, it would be nice to use the blackboard L as identifier for a linear category, as is done in the later part of `LinearCategory.v`. Emacs tells me to type \BbbL to enter that letter.
> 
> I think it would be worth it since the letter L has such a strong association with left adjoints.

I'll make that change.

File: UniMath/CategoryTheory/Monoidal/Comonoids/TransportComonoidAlongRetraction.v [hunk 14]
```diff
@@ -0,0 +1,239 @@
+Require Import UniMath.Foundations.All.
+Require Import UniMath.MoreFoundations.All.
+
+Require Import UniMath.CategoryTheory.Core.Categories.
+Require Import UniMath.CategoryTheory.Monoidal.Categories.
+
+Require Import UniMath.CategoryTheory.DisplayedCats.Core.
+
+Require Import UniMath.CategoryTheory.Monoidal.Comonoids.Category.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/Comonoids/TransportComonoidAlongRetraction.v:9]: - It would be great if this file had a header describing its contents.
- Is there a more systematic way to "order" the import statements?

File: UniMath/Semantics/LinearLogic/LinearCategory.v [hunk 15]
```diff
@@ -152,7 +153,39 @@ Definition linear_category_laws
...
+     (∏ x y : 𝕃, mon_functor_tensor (linear_category_bang_functor 𝕃) x y
+                           · linear_category_counit 𝕃 (x ⊗ y)
+                         = linear_category_counit 𝕃 x #⊗ linear_category_counit 𝕃 y
+                             · mon_lunitor (monoidal_unit 𝕃))
+     ×
+     (* counit preserves unit *)
+     (mon_functor_unit (linear_category_bang_functor 𝕃)
+                · linear_category_counit 𝕃 I_{𝕃}
+              = identity I_{𝕃}).
+
```
Comment (benediktahrens) [inline UniMath/Semantics/LinearLogic/LinearCategory.v:188]: Is there a standard notation for the operations, such that using this notation one could express the laws precisely, at least in a comment?

File: UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v [hunk 16]
```diff
@@ -0,0 +1,123 @@
+(*
+In this file, the cofree adjunction between a linear category and its Eilenberg-Moore category is constructed.
```
Comment (benediktahrens) [inline UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v:2]: Can you give a reference for this construction?

File: UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v [hunk 17]
```diff
@@ -0,0 +1,123 @@
...
+Require Import UniMath.CategoryTheory.categories.Dialgebras.
+
+Require Import UniMath.CategoryTheory.Monoidal.Displayed.WhiskeredDisplayedBifunctors.
+Require Import UniMath.CategoryTheory.Monoidal.Displayed.Monoidal.
+
+Require Import UniMath.CategoryTheory.categories.CoEilenbergMoore.
+Require Import UniMath.CategoryTheory.Monoidal.Examples.MonoidalDialgebras.
+Require Import UniMath.CategoryTheory.Monoidal.Examples.SymmetricMonoidalCoEilenbergMoore.
+
+Require Import UniMath.Semantics.LinearLogic.LinearCategory.
```
Comment (benediktahrens) [inline UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v:32]: Would it be useful to order the import statements somehow?

Comment (Kfwullaert) [reply UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v:32]: I must admit that I consider this ordered.
The first list consists of the category theory files (including monoidal categories).
The second list consists of the general displayed categories constructions.
The third list consists of the displayed monoidal stuff.
The fourth is about the Eilenberge-Moore.

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v (hunk 12 above)
Comment (nmvdw) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v]: Paul-André Mellies wrote linear-non-linear adjunction in https://www.irif.fr/~mellies/mpri/mpri-ens/biblio/categorical-semantics-of-linear-logic.pdf, and that is the one I followed. The nLab follows the same spelling: https://ncatlab.org/nlab/show/linear-non-linear+logic. In the paper by Benton (https://link.springer.com/chapter/10.1007/BFb0022251), linear/non-linear is used.

I don't have a strong preference, but consistency is good.

**Comment by nmvdw** [comment]
> Now that the development has been done, it would be nice to use the blackboard L as identifier for a linear category, as is done in the later part of `LinearCategory.v`. Emacs tells me to type \BbbL to enter that letter.
> 
> I think it would be worth it since the letter L has such a strong association with left adjoints.

I use `\bL` for blackboard L

File: UniMath/Semantics/LinearLogic/LinearCategory.v (hunk 15 above)
Comment (nmvdw) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:188]: Do you mean notation for `linear_category_counit`?

Comment (benediktahrens) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:188]: > Do you mean notation for `linear_category_counit`?

I mean notations for the operations mentioned in the comments, like "counit preserves tensor", "comult preserves unit", etc. It would be great to instead write an equation in mathematical notation. It would make it easier (for me) to understand the code.

File: UniMath/CategoryTheory/Monoidal/Comonoids/TransportComonoidAlongRetraction.v [hunk 18]
```diff
@@ -0,0 +1,242 @@
+(*
+Consider a morphism i : B --> a in a monoidal category.
+Given a comonoid structure on B, we show how the comonoid structure can be transported to a, provided i is part of a retraction pair (and a compatibility condition).
+Furthermore, i becomes a comonoid homomorphism.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Monoidal/Comonoids/TransportComonoidAlongRetraction.v:4]: Is there a reason why one letter ("B") is capital, one is small ("a")? The question might sound silly, but it really makes me wonder if there is a significance in this choice.

File: UniMath/Semantics/LinearLogic/LinearCategory.v (hunk 15 above)
Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:188]: I would like to recall my concerns in this matter: https://github.com/UniMath/UniMath/issues/1758#issuecomment-1684942340_

Comment (benediktahrens) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:188]: I don't understand that comment. Can you give an example?

Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:188]: `linear_category_comult_coalgebra_mor` is not used in the file `LinearCategory.v`, but it could be used to construct a coalgebra morphism, which would make it clear that the law indeed corresponds to its name. This is then not a formula of ordinary mathematics but a high-level representation.

**Review by benediktahrens — APPROVED** [review]

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 19]
```diff
@@ -0,0 +1,591 @@
...
+
+  Context (𝕃 : linear_category).
+  Let bang : sym_monoidal_cmd 𝕃
+      := linear_category_bang 𝕃.
+
+  Context (xx : sym_monoidal_cat_co_eilenberg_moore (linear_category_bang 𝕃)).
+  Let x : 𝕃 := pr11 xx.
+  Let hx : 𝕃⟦x, bang x⟧ := pr21 xx.
+
+  Let comonoid_on_bang_x := linear_category_cocommutative_comonoid 𝕃 x.
```
Comment (rmatthes) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:121]: Why is this called cocommutative? The problem comes from upstream.

Comment (nmvdw) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:121]: The laws of a comonoid can be called "co-unitality", "co-associativity" and co-commutativity (see i.e. https://ncatlab.org/nlab/show/cocommutative+coalgebra). I used that convention in the code I wrote, but I think Kobe used co-unitality, co-associativity, and commutativity.

Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:121]: I see. Thank you. Not optimal to have both conventions.

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 20]
```diff
@@ -0,0 +1,591 @@
...
+  Lemma linear_category_comult_factors_through_comult_bang
+    :  δ (linear_category_bang 𝕃) x
+         · (linear_category_comult 𝕃 (bang x)
+              · ε bang (bang x) #⊗ ε bang (bang x))
+       = linear_category_comult 𝕃 x.
+  Proof.
+    rewrite assoc.
+    etrans. {
+      apply maponpaths_2.
+      apply linear_category_counit_comonoid_mor_comult.
```
Comment (rmatthes) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:132]: This seems to be the only use of this axiom of a linear category. I am puzzled that the companion axiom `linear_category_counit_comonoid_mor_counit` is never referenced. Is this maybe hidden through some projections?

Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:132]: I have an answer to this that might interest @nmvdw : if I replace the axiom `linear_category_counit_comonoid_mor_counit` by a trivial statement (`0=0`), I can easily restore compilation. So, this axiom is not needed yet. Would it anyway follow from the others?

Comment (Kfwullaert) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:132]: @rmatthes You are indeed right that I've only used two (out of 4) axioms that I've added in the definition of a linear category (if I recall correctly), and are used not much.
However, I don't see why they should follow from the other axioms. 
Anyway, I don't consider this is as something _strange_. The added axioms tell you that you have a monoidal structure on the natural transformations (each consisting of two axioms), so why not ask for both?

Comment (nmvdw) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:132]: Interesting. It might then indeed be the case that these axioms are not needed. It is worthwhile to check the literature.

It might be the case that somehow they follow from the other axioms, because every LNL model gives rise to a linear category.

File: UniMath/CategoryTheory/Monoidal/Comonoids/TransportComonoidAlongRetraction.v (hunk 18 above)
Comment (Kfwullaert) [reply UniMath/CategoryTheory/Monoidal/Comonoids/TransportComonoidAlongRetraction.v:4]: I've used the same notation as Paul-André Melliès used in his paper "Categorical semantics of linear logic".
B is a comonoid, while a is only an object.

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v (hunk 20 above)
Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:132]: So, if I understand right, two of @Kfwullaert 's axioms and one of @nmvdw ' axioms are not used *yet*. This might warrant having those in an extra bunch that becomes optional (even before knowing if they are derivable).

File: UniMath/Semantics/LinearLogic/LinearCategory.v (hunk 15 above)
Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:188]: I have made this thought concrete in https://github.com/Kfwullaert/UniMath/pull/40 . Thus, none of the original 9 axioms put by @nmvdw stays unexplained mathematically (they enter into identifiable structures in the same file). For the 4 axioms added by @Kfwullaert, I do not feel competent yet.

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v (hunk 20 above)
Comment (Kfwullaert) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:132]: @nmvdw The latter is indeed something to check. I do want to point out that this is not the first time such a phenomena occurs, indeed: If you want to prove the characterization of a (not necessarily symmetric) monoidal category being cartesian, you ask for every object to have a comonoid structure. However, one does not actually need the (co)associativity law of the comonoid.

File: UniMath/Semantics/LinearLogic/LinearCategory.v (hunk 15 above)
Comment (Kfwullaert) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:188]: @rmatthes Niels has actually provided some of the mathematical structures at the end of the file; such as the (co)commutative comonoid, the natural transformations.

Comment (nmvdw) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:188]: I think Ralph also wants to have accessors for the **monoidal** natural transformations

Comment (Kfwullaert) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:188]: I consider this something to be done in another PR, because the diagonal functor has to be shown to be monoidal (here is where all the diagrams regarding the inner_swap come into play).

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v (hunk 20 above)
Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:132]: I think it would be valuable to record that. But I see no easy way to make this in Coq code.

File: UniMath/Semantics/LinearLogic/LinearCategory.v (hunk 15 above)
Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:189]: Okay, Niels provided structures using 7 of the 9 laws - some of them not used afterwards, but that is fine. I spelt out the coalgebra homomorphisms to illustrate the last two laws. It is already a compromise since it builds up the coalgebras by hand instead of referring to more structure here. For 3 of the 4 new rules, it does not look so much different to me. Could they be reassembled into structure? And for `linear_category_comult_preserves_tensor`, could this not be done in the file `LinearToLinearNonLinear.v`? I mean as a motivation for the mysterious lemma `aux` (I do not ask for presenting that lemma in a structure-revealing format).

Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:189]: For the two last laws, I have a new PR: https://github.com/Kfwullaert/UniMath/pull/41
It appears to me that their names were not to the point.

Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearCategory.v:191]: Now even the last two laws: https://github.com/Kfwullaert/UniMath/pull/42

File: UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v (hunk 2 above)
Comment (rmatthes) [reply UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v]: This is now properly addressed in https://github.com/Kfwullaert/UniMath/pull/39

**Review by rmatthes — APPROVED** [review]
modulo my two pull requests to the fork

File: UniMath/CategoryTheory/Monoidal/Comonoids/TransportComonoidAlongRetraction.v [hunk 21]
```diff
@@ -0,0 +1,242 @@
+(*
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Comonoids/TransportComonoidAlongRetraction.v:1]:
```suggestion
(**
```
Coqdoc uses (** while normal comments use (*, so it is better to use (**

File: UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v [hunk 22]
```diff
@@ -0,0 +1,123 @@
+(*
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearCategoryEilenbergMooreAdjunction.v:1]:
```suggestion
(**
```

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 23]
```diff
@@ -0,0 +1,591 @@
+(*
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:1]:
```suggestion
(**
```

File: UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v [hunk 24]
```diff
@@ -0,0 +1,591 @@
...
+      apply maponpaths.
+      exact (! linear_category_counit_nat (pr11 f)).
+  Qed.
+
+  (* Unfortunately, I'm unable to clean up this lemma.
+     If I do this, I will have to do some manipulation in
+     definition linear_category_eilenberg_moore_cartesian.
+     The purpose of this lemma is to avoid having to prove this property in that definition.
+   *)
+  Local Lemma aux
```
Comment (nmvdw) [inline UniMath/Semantics/LinearLogic/LinearToLinearNonLinear.v:460]: Maybe call it `linear_category_eilenberg_moore_cartesian_lem`, so that it is clear what it is related to.

**Review by nmvdw — APPROVED** [review]
I also think it is ready for merging (except for a couple of minor comments).

**Comment by rmatthes** [comment]
Good, so let's merge as soon as CI gives us the green light.

**Comment by rmatthes** [comment]
This should be a rebased merge, not a squash merge.

**Comment by rmatthes** [comment]
I'll prepare a new PR to the fork that will remove the problems coming from issue #1770.

**Comment by rmatthes** [comment]
The announced PR is https://github.com/Kfwullaert/UniMath/pull/43.
